US07521462B2
Add sodium triacetoxyborohydride (24.00 g, 113 mmol) to a stirred solution of 4-{[(4-chloro-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (21.78 g, 65.6 mmol), isobutyraldehyde (9.0 mL, 99.1 mmol), acetic acid (4.0 mL, 69.9 mmol), and 1,2-dichloroethane (260 mL). Stir the reaction for 18 hours at room temperature under nitrogen. Pour the reaction into 2N NaOH (300 mL) and extract with ethyl acetate (3×150 mL). Wash the ethyl acetate with brine (2×150 mL). Dry the ethyl acetate over sodium sulfate and then filter off the sodium sulfate. Concentrate on a rotary evaporator and purify the crude product by flash chromatography on silica gel eluting with 25% ethyl acetate/hexanes to yield 24.67 g (97%) of 4-{[(4-chloro-thiazol-5-yl)methyl]-isobutyl-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=388.2 (M+1); 1H NMR (CDCl3): δ=8.65 (s, 1H), 4.21 (br s, 2H), 3.80 (s, 2H), 2.63-2.56 (m, 3H), 2.29 (d, 2H), 1.77-1.65 (m, 3H), 1.50-1.41 (m, 11H), 0.92 (d, 6H).

reactant | sodium triacetoxyborohydride | 113 mmol, 24.00 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-{[(4-chloro-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 65.6 mmol, 21.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=C(N=CS1)Cl | C14H22ClN3O2S
reactant | isobutyraldehyde | 99.1 mmol, 9.0 mL | C(C(C)C)=O | C4H8O
reactant | acetic acid | 69.9 mmol, 4.0 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 2N, 300 mL | [OH-].[Na+]
solvent | 1,2-dichloroethane | 260 mL | ClCCCl | C2H4Cl2
product | 4-{[(4-chloro-thiazol-5-yl)methyl]-isobutyl-amino}-piperidine-1-carboxylic acid tert-butyl ester | 24.67 g, 97% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC(C)C)CC1=C(N=CS1)Cl | C18H30ClN3O2S
